US05864039
4-Amino-5-chloro-2-methoxy-N-(piperidin-4-ylmethyl)benzamide dihydrochloride (1.5 g) as starting compound, potassium carbonate (2.5 g) and 6-bromo-1-(4-fluorophenyl)-1-hexanone (1.3 g) were reacted and treated in the same manner as in Example 172 to give 1.0 g of 4-amino-5-chloro-N-((1-(6-(4-fluorophenyl)-6-oxohexyl)piperidin-4-yl)methyl)-2-methoxybenzamide.

reactant | 4-Amino-5-chloro-2-methoxy-N-(piperidin-4-ylmethyl)benzamide dihydrochloride | 1.5 g | Cl.Cl.NC1=CC(=C(C(=O)NCC2CCNCC2)C=C1Cl)OC
reactant | potassium carbonate | 2.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | 6-bromo-1-(4-fluorophenyl)-1-hexanone | 1.3 g | BrCCCCCC(=O)C1=CC=C(C=C1)F | C12H14BrFO
product | 4-amino-5-chloro-N-((1-(6-(4-fluorophenyl)-6-oxohexyl)piperidin-4-yl)methyl)-2-methoxybenzamide | 1.0 g | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCCCC(=O)C2=CC=C(C=C2)F)C=C1Cl)OC | C26H33ClFN3O3
